US04720506
10 g of ethyl 4-aminophenylacetate was dissolved in 100 ml of benzene and to this was added 25 ml of water. To the solution were added dropwise a solution of 6 g of isobutyryl chloride in 20 ml of benzene and a solution of 2.4 g of 93% NaOH in 25 ml of water simultaneously under stirring over 15 minutes. After completion of the dropwise addition, the reaction mixture was stirred for 3 hours and allowed to stand at room temperature overnight. After separating the benzene layer, washing it with 1N-HCl solution and further washing with a saturated solution of sodium chloride, the benzene layer was dried over anhydrous sodium sulfate. After separating sodium sulfate by filteration, the solvent was distilled off under reduced pressure and the residue was dissolved in 30 ml of benzene and crystallized from 90 ml of n-hexane. The formed crystals were separated by filteration and were dried at a temperature below 60° C. under reduced pressure to give 12.3 g of ethyl 4-(isobutyrylamino)phenylacetate (Yield: 88.3%). M.P. 92.5°-93.5° C.

reactant | ethyl 4-aminophenylacetate | 10 g | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | isobutyryl chloride | 6 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | NaOH | 2.4 g | [OH-].[Na+]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | water | 25 ml | O | H2O
solvent | water | 25 ml | O | H2O
product | ethyl 4-(isobutyrylamino)phenylacetate | 12.3 g, Yield: 88.3% | C(C(C)C)(=O)NC1=CC=C(C=C1)CC(=O)OCC | C14H19NO3
